US04011319
A solution of 30.1 g. (0.1 mol) of N-[2-(3,4-dimethoxyphenyl)ethyl] -2-phenyl-2-hydroxyethylamine in 120 ml. of trifluoroacetic acid and 8.2 ml. of concentrated sulfuric acid is heated at reflux for 2 hours. After cooling to room temperature, the trifluoroacetic acid is removed under reduced pressure and 100 ml. of ice-water is added. This mixture is basified to pH 9-10 with 10% sodium hydroxide solution and thoroughly extracted with ethyl acetate. The extract is dried and evaporated to give 7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine as an oil. Various salts can readily be prepared from the free base. For example, 5 g. (0.0176 mol) dissolved in dry ether is treated with methanesulfonic acid dropwise until no further precipitate is formed. The solid is filtered and washed with dry ether to give 7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine methanesulfonate, m.p. 133°-136° C.

reactant | N-[2-(3,4-dimethoxyphenyl)ethyl] -2-phenyl-2-hydroxyethylamine | 0.1 mol | COC=1C=C(C=CC1OC)CCNCC(O)C1=CC=CC=C1 | C18H23NO3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | COC1=CC2=C(C(CNCC2)C2=CC=CC=C2)C=C1OC | C18H21NO2
